US07964643B2
2′-Aminobiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (ABD-263)
2′-Nitrobiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (0.5 g) was dissolved in methanol (50 mL). 10% Pd/C (0.5 g) was added and the mixture stirred under hydrogen for 4 hours. The mixture was filtered through celite and evaporated to a brown oil. Column chromatography gave a clear oil, crystallised from ether/petrol to give a white powder. δC (DMSO, 62.9 MHz): 25.9, 29.6, 42.6, 60.3, 115.6, 116.8, 124.1, 126.8, 128.8, 129.3, 129.9, 138.6, 143.8 and 145.2.

reactant | 2′-Nitrobiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | 0.5 g | OCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C16H18N2O5S
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 2′-Aminobiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)N | C16H20N2O3S
